US04835183
N,N-Dimethyl-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide
3,7,11,15-Tetramethyl-2,4,6,10,14 -hexadecapentaenoic acid and dimethylamine were reacted in the same manner as in Preparation Example 9 to obtain the desired product as pale yellow crystals.

reactant | 3,7,11,15-Tetramethyl-2,4,6,10,14 -hexadecapentaenoic acid | CC(=CC(=O)O)C=CC=C(CCC=C(CCC=C(C)C)C)C | C20H30O2
reactant | dimethylamine | CNC | C2H7N
product | N,N-Dimethyl-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide | CN(C(C=C(C=CC=C(CCC=C(CCC=C(C)C)C)C)C)=O)C | C22H35NO
